US07943639B2
7-(3,4-Dichloro-benzenesulfonyl)-1-piperazin-1-yl-isoquinoline hydrochloride
A mixture of 4-[7-(3,4-dichloro-phenylsulfanyl)-isoquinolin-1-yl]-piperazine-1-carboxylic acid tert-butyl ester (230 mg, 0.47 mmol), H2O2 (30% in water, 0.5 mL), trifluoroacetic acid (1.5 mL) was heated at 50° C., 2 h. The reaction was continued overnight at 35° C. A water solution of NaOH (1N) was added (pH=14), ethyl acetate was added and the organic phase was separated, dried (MgSO4), filtered. The filtrated was concentrated and the residue was purified by flash column chromatography (SiO2, dichloromethane:methanol 9:1) The free base was converted into hydrochloride by treatment with HCl in diethyl ether to obtained 45 mg of the title compound. 1H NMR (CH3OH-d4) δ 8.75-8.85 (m, 1H), 8.10-8.30 (m, 4H), 7.90-8.00 (m, 1H), 7.75-7.85 (m, 1H), 7.50-7.60 (m, 1H), 3.85-3.90 (m, 4H), 3.50-3.70 (m, 4H).

reactant | 4-[7-(3,4-dichloro-phenylsulfanyl)-isoquinolin-1-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.47 mmol, 230 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)SC1=CC(=C(C=C1)Cl)Cl | C24H25Cl2N3O2S
reactant | H2O2 | 0.5 mL | OO | H2O2
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-(3,4-Dichloro-benzenesulfonyl)-1-piperazin-1-yl-isoquinoline hydrochloride | 45 mg | Cl.ClC=1C=C(C=CC1Cl)S(=O)(=O)C1=CC=C2C=CN=C(C2=C1)N1CCNCC1 | InChI=1S/C19H17Cl2N3O2S.ClH/c20-17-4-3-15(12-18(17)21)27(25,26)14-2-1-13-5-6-23-19(16(13)11-14)24-9-7-22-8-10-24;/h1-6,11-12,22H,7-10H2;1H
